US06444833B1
Synthesis of 2-methyl-3-phenylthiophene
In a 1 l 3neck round bottled flask equipped with stirbar, condenser, and 125 ml pressure equalized addition funnel was added 1 g bis(diphenylphosphino)propane)]dichloronickel(II) (dPPP) in 200 ml diethylether, then 89.8 g (460 mmol) 3-bromo-2-methylthiophene. Dropwise, a 3M solution of phenylmagnesium bromide in diethyl ether (456 mmol, 152 ml) was added. After addition was complete, the reaction flask was stirred an additional 1 h., then quenched with water. The organic fraction was collected with dichloromethane, washed with water, dried over magnesium sulfate, then the solvent removed in vacuo. A dark orange oil. (77.13 g, 87.2% by GC) was recovered. Yield: 84.7%. The title compound was analysed by mass and 1H-NMR spectroscopy.

reactant | bis(diphenylphosphino)propane | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C)(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 3-bromo-2-methylthiophene | 460 mmol, 89.8 g | BrC1=C(SC=C1)C | C5H5BrS
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
catalyst | dichloronickel(II) | Cl[Ni]Cl
solvent | diethyl ether | 456 mmol, 152 ml | C(C)OCC | C4H10O
product | 2-methyl-3-phenylthiophene | Yield: 84.7% | CC=1SC=CC1C1=CC=CC=C1 | C11H10S
